US07915424B2
5-(3-Fluorophenylethynyl)-pyridine-3-carbaldehyde
Prepare essentially as described in EXAMPLE 5 using a 1 M solution of diisobutylaluminum hydride in toluene (1.2 mL, 1.20 mmol), 5-(3-fluorophenylethynyl)-N-methoxy-N-methylnicotinamide, (prepared as described in PREPARATION 18), (170 mg, 0.60 mmol) to give the title compound (86 mg, 64%).

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 1.20 mmol, 1.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | 5-(3-fluorophenylethynyl)-N-methoxy-N-methylnicotinamide | 0.60 mmol, 170 mg | FC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N(C)OC)C1 | C16H13FN2O2
product | 5-(3-Fluorophenylethynyl)-pyridine-3-carbaldehyde | 86 mg, 64% | FC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C=O | C14H8FNO
